US06653330B2
4-[trans-5-[[(1R,2R)-2-(2,4-Difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]-N-(4-pyridyl)benzamide and cis isomer thereof (Exemplification Compound Number 12-1)
In the same manner as that described in Example 3(3), a reaction was carried out using 4-formyl-N-(4-pyridyl)benzamide (200 mg, 0.88 mmol), (2R,3R)-2-(2,4-difluorophenyl)-3-[[1-(hydroxymethyl)-2-hydroxyethyl]thio]-1-(1H-1,2,4-triazol-1-yl)-2-butanol (318 mg, 0.88 mmol) and p-toluenesulfonic acid monohydrate (469 mg, 2.5 mmol) and the reaction mixture was treated according to a similar procedure to that described in Example 3(3) to give the trans isomer of the title compound (187 mg, yield 37%) as a white solid and the cis isomer (86 mg, yield 17%) as a colorless oil. The trans isomer was recrystallized from ethyl acetate-hexane to give white powdery crystals.

reactant | 4-formyl-N-(4-pyridyl)benzamide | 0.88 mmol, 200 mg | C(=O)C1=CC=C(C(=O)NC2=CC=NC=C2)C=C1 | C13H10N2O2
reactant | (2R,3R)-2-(2,4-difluorophenyl)-3-[[1-(hydroxymethyl)-2-hydroxyethyl]thio]-1-(1H-1,2,4-triazol-1-yl)-2-butanol | 0.88 mmol, 318 mg | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)SC(CO)CO)O | C15H19F2N3O3S
reactant | p-toluenesulfonic acid monohydrate | 2.5 mmol, 469 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 4-[trans-5-[[(1R,2R)-2-(2,4-Difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]-N-(4-pyridyl)benzamide | 187 mg, yield 37% | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)S[C@H]1CO[C@@H](OC1)C1=CC=C(C(=O)NC2=CC=NC=C2)C=C1)(CN1N=CN=C1)O | C28H27F2N5O4S
